Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with PMH of colon cancer s/p resection and 
chemotherapy in ___ and nephrolithiasis s/p right ureteral 
stent 1 week prior in ___ presenting with 1 day of fevers, 
chills, sweats, mild right flank pain, nausea and vomiting.  He 
lives in ___ and was visiting friends in the ___ area.  
He presented initially to ___, was febrile up to 103, 
leukocytosis of 15.8, creatinine 1.2, blood cultures were sent 
(no urinalysis or urine culture sent), he was started on Zosyn 
and transferred to ___.  In the ___ ED he had a CT A/P which 
showed appropriately positioned stent, mild right 
hydronephrosis, fat stranding possibly consistent with 
pyelonephritis, small amount of R pericolic gutter fluid raising 
possibility of forniceal rupture and non-obstructive stones 
bilaterally.  Urology was consulted and recommend admission to 
medicine.  He was given Zosyn.  

Currently he reports feeling well aside from mild flushing.  He 
denies any prior history of urinary tract infections or other 
infections.

ROS: as above, ten point ROS otherwise negative.  
 
Past Medical History:
colon cancer s/p resection and chemotherapy in ___ 
nephrolithiasis s/p right ureteral stent
 
Social History:
___
Family History:
Father died of prostate cancer, mother died of breast cancer. 
 
Physical Exam:
Admission PE:
T 102.7 HR: 149 BP: 89/55 Resp: 22 O(2)Sat: 92  in emergency 
room
VS: 98.0 120 / 56 83 18 93 RA on medical floor
Gen: NAD, flushed appearing, lying comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP Clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: soft, NT, ND +BS
Back: no CVA tenderness
Ext: no c/c/e
Neuro: CN II-XII intact, ___ strength throughout
Psych: pleasant, normal affect
Skin: warm, dry no rashes

On Discharge, stable vitals.
He is a thin, elderly male, extremely pleasant, walking with 
ease, NAD
Face - + erythema on nose, nasolabial fold -? rosacea
Lung CTA B
CV RRR
Abd:  Nabs, soft
Ext:  No edema
No flank tenderness
 
Pertinent Results:
ADMISSION LABS
___ 04:10PM URINE  RBC-84* WBC-20* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:10PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-SM 
___ 03:50PM   LACTATE-1.6
___ 03:40PM   GLUCOSE-126* UREA N-20 CREAT-1.0 SODIUM-141 
POTASSIUM-3.6 CHLORIDE-106 TOTAL CO2-21* ANION GAP-18
___ 03:40PM   WBC-10.7* RBC-3.73* HGB-11.9* HCT-35.4* 
MCV-95 MCH-31.9 MCHC-33.6 RDW-13.4 RDWSD-47.1*
___ 03:40PM   NEUTS-89.2* LYMPHS-4.4* MONOS-5.5 EOS-0.0* 
BASOS-0.3 IM ___ AbsNeut-9.57* AbsLymp-0.47* AbsMono-0.59 
AbsEos-0.00* AbsBaso-0.03
Urine culture:  NO growth
Blood culture x 2:  no growth

DISCHARGE LABS
___ 07:38AM BLOOD WBC-4.6 RBC-3.82* Hgb-11.9* Hct-35.2* 
MCV-92 MCH-31.2 MCHC-33.8 RDW-13.1 RDWSD-43.8 Plt ___
___ 07:38AM BLOOD Plt ___
___ 07:38AM BLOOD Glucose-100 UreaN-15 Creat-0.8 Na-140 
K-3.1* Cl-102 HCO3-27 AnGap-14

CT A/P ___:
IMPRESSION:  
A double-J ureteral stent is proximally coiled within the right 
renal pelvis and distally coiled within the urinary bladder with 
mild right hydroureter.  There is significant fat stranding 
adjacent to the right kidney which may reflect pyelonephritis in 
the appropriate clinical setting.  Small amount of fluid within 
the adjacent right pericolic gutter raises the possibility 
forniceal rupture.  Nonobstructive nephrolithiasis is bilateral. 


CXR ___:
IMPRESSION:  
No signs of pneumonia.  Lucent hyperinflated lungs suggest 
emphysema.  
Abnormal contour of the posterior left hemidiaphragm, question 
hernia or 
eventration 

 
Brief Hospital Course:
___ year old male with PMH of colon cancer s/p resection and 
chemotherapy in ___ and nephrolithiasis s/p right ureteral 
stent 1 week prior in ___ presenting with 1 day of fevers, 
chills, sweats, mild right flank pain, nausea and vomiting found 
to have likely complicated pyelonephritis.

#Sepsis due to
#Pyelonephritis, complicated UTI
#Nephrolithiasis s/p stent
Complicated UTI given recent stent placement and question of 
forniceal rupture on CT scan.  He gets his care in ___ but 
denies any prior history of infections.  Unfortunately received 
antibiotics prior to cultures being sent - so as a result, all 
cultures negative.  
He was originally started on cefepime while awaiting culture 
data and he defervesced within 36 hours.  All blood and urine 
cultures (2 sets blood, 1 set urine) were negative, however.  
He was switched to oral ciprofloxacin and remained afebrile.  He 
will take an additional 11 days of medication to complete a 2 
week course.  He has been instructed to f/u with his doctors in 
___ regarding timing of removal of stent. 

# Anemia - patient with mild, stable anemia.  Unknown baseline.  
Should f/u with PCP

# Thrombocytopenia:  due to infection, improved over the course 
of admission.   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Pyelonephritis causing sepsis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with high fevers, and evidence of kidney 
infection.  You improved substantially with antibiotics, and are 
ready for discharge.  Please follow up with your doctors in 
___ regarding removal of the stent.  
 
Followup Instructions:
___